US06689922B1
6-{3-[2-(3,5-bis-Hydroxymethylphenyl)vinyl]phenyl}-2-methylhexan-2-ol
In a manner similar to Example 3(i), by reacting 858 mg (1.47 mmol) of 6-(3-{2-[3,5-bis-(tert-butyldimethylsilanyloxymethyl)phenyl]vinyl}phenyl)-2-methylhexan-2-ol with 3.25 ml of tetrabutylammonium fluoride 1M/THF, after purification on a silica column (ethyl acetate), a white paste (m=460 mg; Y=88%) is obtained.

reactant | 6-(3-{2-[3,5-bis-(tert-butyldimethylsilanyloxymethyl)phenyl]vinyl}phenyl)-2-methylhexan-2-ol | 1.47 mmol, 858 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=C(C1)CO[Si](C)(C)C(C)(C)C)C=CC=1C=C(C=CC1)CCCCC(C)(O)C | C35H58O3Si2
reactant | tetrabutylammonium fluoride | 1M, 3.25 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 6-{3-[2-(3,5-bis-Hydroxymethylphenyl)vinyl]phenyl}-2-methylhexan-2-ol | OCC=1C=C(C=C(C1)CO)C=CC=1C=C(C=CC1)CCCCC(C)(O)C | C23H30O3
